US07141564B2
(a) (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-methanol
2,3-Dihydro-benzo[1,4]dioxine-6-carbaldehyde [RN 29668-44-8] (3.04 g, 18.54 mmol) was dissolved in ethanol (100 mL) and cooled to 0° C. To the resulting solution was added sodium borohydride (1.41 g, 37.07 mmol). The resulting slurry was stirred at room temperature for 1 hour and then quenched with water (10 mL) before being concentrated to dryness under reduced pressure. The residue was partitioned between a 5% aqueous solution of sodium hydrogen carbonate (20 mL) and dichloromethane (2×50 mL). The organic phases were combined and dried over magnesium sulfate then evaporated under reduced pressure to provide and oil which was purified on silica gel using a dichloromethane and methanol solvent gradient. This provided the desired product as a colourless oil (3.00 g, 97%).

reactant | 2,3-Dihydro-benzo[1,4]dioxine-6-carbaldehyde | 18.54 mmol, 3.04 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | sodium borohydride | 37.07 mmol, 1.41 g | [BH4-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-methanol | 3.00 g, 97% | O1CCOC2=C1C=CC(=C2)CO | C9H10O3
